US08629137B2
Step 2: 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one
1.93 g (10.0 mmol) 6-chloropyrimidine-4-carboxylic acid chloride, 1.80 g (10.9 mmol) 4-methyl-3H-benzothiazol-2-one and 7.33 g (55.0 mmol) aluminium trichloride were combined and heated to 130° C. for 3 h with stirring. The mixture was combined with ice water and EtOAc, the flakes formed were suction filtered and the phases were separated. The aqueous phase was extracted with EtOAc. The organic phases were combined, dried on sodium sulphate, filtered and the filtrate was evaporated down i. vac. The residue was triturated with DIPE, the precipitate was suction filtered and dried.

reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 10.0 mmol, 1.93 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | 4-methyl-3H-benzothiazol-2-one | 10.9 mmol, 1.80 g | CC1=CC=CC2=C1NC(S2)=O | C8H7NOS
reactant | aluminium trichloride | 55.0 mmol, 7.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(S2)=O)C(=C1)C | C13H8ClN3O2S
